### PR TITLE
feat(ErdosProblems): 865

### LINKED ISSUE #989: Erdős Problem 865
### What is the conjecture

https://www.erdosproblems.com/865

  There exists a constant $C>0$ such that, for all large $N$, if $A\subseteq \\{1,\ldots,N\\}$ has size at least $\frac{5}{8}N+C$ then there are distinct $a,b,c\in A$ such that $a+b,a+c,b+c\in A$.

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #989 

Formalizes Erdos Problem 865: https://www.erdosproblems.com/865

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/865.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+/--
+There exists a constant $C>0$ such that, for all large $N$, if $A\subseteq \{1,\ldots,N\}$ has
+size at least $\frac{5}{8}N+C$ then there are distinct $a,b,c\in A$ such that $a+b,a+c,b+c\in A$.
+
+A problem of Erdős and Sós (also earlier considered by Choi, Erdős, and Szemerédi [CES75], but Erdős
+had forgotten this).
+-/
+@[category research open, AMS 5 11]
+theorem erdos_865 :
+    answer(sorry) ↔ ∃ C > 0, ∀ᶠ (N : ℕ) in atTop,
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/865.lean]:
```suggestion
    ∃ C > 0, ∀ᶠ (N : ℕ) in atTop,
```
This is one case I would leave out the `anser(sorry)` because it is not phrased as a question.

File: FormalConjectures/ErdosProblems/865.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+      ∃ a ∈ A, ∃ b ∈ A, ∃ c ∈ A, a ≠ b ∧ a ≠ c ∧ b ≠ c ∧
+      a + b ∈ A ∧ a + c ∈ A ∧ b + c ∈ A := by
+  sorry
+
+/--
+It is a classical folklore fact that if $A\subseteq \{1,\ldots,2N\}$ has size $\geq N+2$ then
+there are distinct $a,b\in A$ such that $a+b\in A$, which establishes the $k=2$ case.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_865.variants.k2 (N : ℕ) :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/865.lean:53]:
```lean
theorem erdos_865.variants.k2 (N : ℕ) :
    ∀ A ⊆ Icc 1 (2 * N), A.card ≥ N + 2 →
    ∃ a ∈ A, ∃ b ∈ A, a ≠ b ∧ a + b ∈ A := by
  use fun and R M=>and.eq_empty_or_nonempty.elim (by cases.▸M) fun and' => if a:and∪.image (.-and.min' and') and ⊆.range (2 *N+1) then(? _)else(? _)
  · convert (by_contradiction fun and' => ((and.card_union _)▸ Finset.card_mono a).not_lt.comp ( Finset.card_range @_).trans_lt _)
    replace and':and ∩.image (.-and.min' (by valid)) and ⊆singleton (and.min' (by assumption)):= fun and(a)=>(( Finset.mem_image.1 (Finset.inter_subset_right a)).elim) ?_
    · exact (tsub_le_tsub ((by rw [ and.card_image_of_injOn fun A B K V H=>by rw [←A.sub_add_cancel (and.min'_le A B), H,K.sub_add_cancel (and.min'_le K V)]])) (Finset.card_mono (and'))).trans' (by valid :_<_-1)
    · exact (fun A B =>List.mem_singleton.mpr (by_contra (and' ⟨ _, Finset.inter_subset_left a, ⟨ _, Finset.min'_mem _ _ ,·, B.2▸(A.sub_add_cancel (( Finset.min'_le _ _) (B.1))).symm▸ B.left⟩⟩)))
  · rcases a (Finset.range_eq_Ico▸and.union_subset (R.trans Finset.Icc_subset_Iic_self) ( (and.image_subset_iff.2 fun and(a)=> Finset.mem_Iic.mpr ↑( (and.sub_le _).trans ( Finset.mem_Icc.mp (R a)).right))))
```
just fyi: AlphaProof can prove this, so this is a good sanity check...

File: FormalConjectures/ErdosProblems/865.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+/--
+Erdős and Sós conjectured that
+$f_k(N)\sim \frac{1}{2}\left(1+\sum_{1\leq r\leq k-2}\frac{1}{4^r}\right) N$,
+where $f_k(N)$ is the minimal size of a subset of $\{1, \dots, N\}$ guaranteeing $k$ elements
+have all pairwise sums in the set.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_865.variants.sos :
+    ∀ᵉ (k : ℕ) (hk : 2 ≤ k),
+      ∃ c, c = (1 / 2 : ℝ) * (1 + ∑ r ∈ Icc 1 (k - 2), (1 / 4 : ℝ) ^ r) ∧
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/865.lean]:
```suggestion
      letI c := (1 / 2 : ℝ) * (1 + ∑ r ∈ Icc 1 (k - 2), (1 / 4 : ℝ) ^ r) 
```
I would either just inline this or if you really want to name the constanst, use `letI`.

**Review by mo271 — APPROVED** [review]
Thanks, lgtm, only minor nits

File: FormalConjectures/ErdosProblems/865.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/865.lean]: Oops, good catch.

File: FormalConjectures/ErdosProblems/865.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/865.lean]: Went ahead an inlined it.

**Comment by mo271** [comment]
Thanks again!
